US06951879B2
500 mg (1.5 mmol) 3-[3-(4-Trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-yn-1-ol in 25 ml MeOH were hydrogenated in the presence of 120 mg PtO2. H2O , filtration over silica gel and evaporation yielded 360 mg (71%) 3-[3-(4-Trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-propan-1-ol, which was directly subjected to the following reaction.

reactant | 3-[3-(4-Trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-yn-1-ol | 1.5 mmol, 500 mg | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCO)(F)F | C17H10F3NOS
solvent | MeOH | 25 ml | CO | CH4O
catalyst | PtO2 | 120 mg | O=[Pt]=O
product | 3-[3-(4-Trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-propan-1-ol | 360 mg, 71% | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)CCCO)(F)F | C17H14F3NOS
